US06323227B1
A. 4-(6-methoxy-pyridin-3-yl)-benzoic acid ethyl ester
A 1.6 M solution of nBuLi in hexane (9.53 mL, 15.24 mmol) is added dropwise to a stirred solution of 5-Bromo-2-methoxy-pyridine (2.72 g, 14.52 mmol) in THF (50 mL) at −78° C. The resulting mixture is stirred for 15 minutes at −78° C. To this is added a 0.5 M solution of ZnCl2 in THF (29.04 mL, 14.52 mmol) and the resulting mixture allowed to warm to room temperature. In a separate flask tetrakis(triphenylphosphine)palladium(O) (0.58 g, 0.50 mmol) is stirred in THF (10 mL). To this is added 4-ethyl-iodobenzoate (3.61 g, 13.07 mmol). The contents of the two flasks are combined and stirred for 1 hour at room temperature. A 5% solution of ammonia in water (150 mL) is added with stirring. The mixture is extracted with EtOAc (3×). The organics are combined and dried over MgSO4, filtered and concentrated. The crude product is purified by flash chromatography (2.5% EtOAc/hexane to 5% EtOAc/hexane) to give the product as a white solid (2.43g, 9.44 mmol). 1H NMR (CDCl3, 300 MHz) d 8.41 (d, 1H), 8.08 (d, 2H), 7.82 (dd, 1H), 7.60 (d, 2H), 6.82 (d, 1H), 4.38 (q, 2H), 3.98 (s, 3H), 1.40 (t, 3H).

reactant | nBuLi | [Li]CCCC
reactant | hexane | 15.24 mmol, 9.53 mL | CCCCCC | C6H14
reactant | 5-Bromo-2-methoxy-pyridine | 14.52 mmol, 2.72 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | 4-ethyl-iodobenzoate | 13.07 mmol, 3.61 g | C(C)C1=CC(=C(C(=O)[O-])C=C1)I
reactant | ammonia | N | H3N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.50 mmol, 0.58 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | THF | 14.52 mmol, 29.04 mL | C1CCOC1 | C4H8O
product | 4-(6-methoxy-pyridin-3-yl)-benzoic acid ethyl ester | 9.44 mmol, 2.43g | C(C)OC(C1=CC=C(C=C1)C=1C=NC(=CC1)OC)=O | C15H15NO3
